US07473786B1
5-Cyano-2-phenyl-benzo[b]furan (entry 6, Table 3):
The general procedure was used to convert phenylacetylene and 4-cyano-2-iodophenol to the title product. Purification by flash chromatography (15% ethyl acetate in hexanes as the eluent) gave the analytically pure product as a white solid (421 mg, 96% yield). 1H NMR (300 MHz, CDCl3) δ 7.88-7.82 (m, 3H), 7.58-7.40 (m, 5H), 7.01 (s, 1H). 13C NMR (75 MHz, CDCl3) δ 158.30, 156.41, 129.85, 129.55, 129.23, 128.98, 127.84, 125.72, 125.22, 119.49, 112.25, 106.85, 100.72. Anal. Calcd. for C15H9NO: C, 82.18; H, 4.14; N, 6.39. Found C, 82.04; H, 4.21; N, 6.21. m.p.: 143-145° C.

reactant | phenylacetylene | C1(=CC=CC=C1)C#C | C8H6
reactant | 4-cyano-2-iodophenol | C(#N)C1=CC(=C(C=C1)O)I | C7H4INO
product | 5-Cyano-2-phenyl-benzo[b]furan | C(#N)C1=CC2=C(OC(=C2)C2=CC=CC=C2)C=C1 | C15H9NO
